US06414179B1
(2S*, 3R*)-4-(4-Hydroxyphenyl)-2-methoxy-1,1,1-trifluoro-2,3-epoxy-butane
A solution of (2S*, 3R*)-4-(4-benzyloxyphenyl)-2-methoxy-1,1,1-trifluoro-2,3-epoxy-butane (957 mg, 2.8 mmol) in ethyl acetate (30 ml) was hydrogenated at atmospheric pressure over palladium hydroxide/carbon (20%, 290 mg) for 1 hour. The mixture was filtered through celite and washed with ethyl acetate. The filtrate was concentrated in vacuo and chromatographed on silica gel (hexane:ethyl acetate=7:1-5:1) to give the title compound (691 mg, 97%) as a colorless oil.

reactant | 4-(4-benzyloxyphenyl)-2-methoxy-1,1,1-trifluoro-2,3-epoxy-butane | 2.8 mmol, 957 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC1C(C(F)(F)F)(O1)OC | C18H17F3O3
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium hydroxide/carbon | 290 mg | [OH-].[OH-].[Pd+2]
product | 4-(4-Hydroxyphenyl)-2-methoxy-1,1,1-trifluoro-2,3-epoxy-butane | 691 mg, 97% | OC1=CC=C(C=C1)CC1C(C(F)(F)F)(O1)OC | C11H11F3O3
